### PR TITLE
Add lemma 09H4

### PR DESCRIPTION
**Pull request by pelicanhere**
We add lemma 09H4 into AlgebraicClosure.lean

### CODE REVIEW

File: Mathlib/FieldTheory/IsAlgClosed/AlgebraicClosure.lean [hunk 1]
```diff
@@ -416,4 +416,37 @@ instance [CharZero k] : CharZero (AlgebraicClosure k) :=
...
+ Fintype.card ((P.comp (X ^ p)).rootSet (AlgebraicClosure F)) := by
+ symm ; apply Fintype.card_congr
+ apply Equiv.ofBijective fun x => ⟨x ^ p, by
+  obtain ⟨h1, h2⟩ := Polynomial.mem_rootSet.1 x.2
+  apply (mem_rootSet_of_ne ?_).2
+  · simp_all only [aeval_comp, aeval_X_pow, aeval_X]
+  · exact (expand_ne_zero p_pos).1 h1 ⟩
+ constructor
+ · intro x y hxy
+   simp [Subtype.mk.injEq] at hxy
```
Comment (mbkybky) [inline Mathlib/FieldTheory/IsAlgClosed/AlgebraicClosure.lean]: using `simp only` instead of `simp`

File: Mathlib/FieldTheory/IsAlgClosed/AlgebraicClosure.lean [hunk 2]
```diff
@@ -416,4 +416,37 @@ instance [CharZero k] : CharZero (AlgebraicClosure k) :=
 instance {p : ℕ} [CharP k p] : CharP (AlgebraicClosure k) p :=
   charP_of_injective_algebraMap (RingHom.injective (algebraMap k (AlgebraicClosure k))) p
 
+/-- Let `F` be a field. Let `p > 0` be the characteristic of `F`. Let `P` be a polynomial over `F`.
+Then the set of roots of `P` and `P(xᵖ)` in the algebraic closure of `F` have the same cardinality
+(not counting multiplicity).
+[Stacks: Lemma 09H4, first part](https://stacks.math.columbia.edu/tag/09H4) -/
+theorem rootSet_expand_card_eq {F : Type*} [Field F] (p : ℕ)(P : Polynomial F)(p_pos : 0 < p )
+[CharP F p] [Fact (Nat.Prime p)]:
```
Comment (mbkybky) [inline Mathlib/FieldTheory/IsAlgClosed/AlgebraicClosure.lean]: 1. The `[Fact (Nat.Prime p)]` is not needed because it can be deduced from `p_pos : 0 < p`. In fact,
```lean
haveI : Fact (Nat.Prime p) := ⟨char_prime_of_ne_zero F (ne_of_gt p_pos)⟩
```
2. A space is needed between the brackets of the condition.

**Review by mbkybky — APPROVED** [review]
